US06011046
2-Bromomethyl-2,3-dihydro-6,7-dimethoxy-2,4-dimethylbenzofuran-5-ol
An aqueous 2.5N sodium hydroxide solution (20 ml) was added to a solution (20 ml) of 5-acetoxy-2-bromomethyl-2,3-dihydro-6,7-dimethoxy-2,4-dimethylbenzofuran (2.5 g) in methanol (20 ml), and the mixture was stirred under an atmosphere of argon at room temperature for 1 hour. The reaction mixture was made acidic with 3N hydrochloric acid, and then extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (hexane:ethyl acetate=85:15) to obtain the title compound (1.9 g, 87%) as an oil.

reactant | sodium hydroxide | 2.5N, 20 ml | [OH-].[Na+]
reactant | 5-acetoxy-2-bromomethyl-2,3-dihydro-6,7-dimethoxy-2,4-dimethylbenzofuran | 20 ml, 2.5 g | C(C)(=O)OC=1C(=C(C2=C(CC(O2)(C)CBr)C1C)OC)OC | C15H19BrO5
reactant | hydrochloric acid | 3N | Cl | ClH
solvent | methanol | 20 ml | CO | CH4O
product | 2-Bromomethyl-2,3-dihydro-6,7-dimethoxy-2,4-dimethylbenzofuran-5-ol | 1.9 g, 87% | BrCC1(OC2=C(C1)C(=C(C(=C2OC)OC)O)C)C | C13H17BrO4
